US06613942B1
(R)-(−)-1-Benzyl-3-aminopyrrolidine (5 g, 28 mmol) was dissolved in dichloromethane (10 ml). To this solution, a solution of bromoacetyl chloride (4.55 g, 28 mmol) in dichloromethane (5 ml) was added at room temperature. The mixture was stirred at room temperature for 16 hours. The mixture was filtered, washed with dichloromethane and dried in vacuo to afford 6.8 g (72%) of (3R)-N-(1-benzylpyrrolidin-3-yl)-2-bromoacetamide hydrochloride as a solid which was used directly in the next step. 4-Hydroxy-2-methoxybenzaldehyde (2.05 g , 13 mmol) was dissolved in DMF (7 ml) and potassium carbonate (6.2 g, 45 mmol) was added followed by a suspension of the above (3R)-N-(1-Benzylpyrrolidin-3-yl)-2-bromoacetamide hydrochloride (3.0 g, 9 mmol) in DMF (16 ml). The resulting mixture was stirred at room temperature for 16 hours. The mixture was then partitioned between water (100 ml) and ethyl acetate (30 ml). The aqueous phase was extracted with ethyl acetate (2×20 ml) and the combined organic extracts were washed with saturated sodium chloride (3×15 ml), dried (MgSO4) and concentrated in vacuo. The residue was crystallized from diethyl ether to afford 2.11 g (64%) (R)-N-(1-benzylpyrrolidin-3-yl)-2-(4-formyl-3-methoxyphenoxy)acetamide as a solid. M.p.: 98-101° C.

reactant | (R)-(−)-1-Benzyl-3-aminopyrrolidine | 28 mmol, 5 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
reactant | bromoacetyl chloride | 28 mmol, 4.55 g | BrCC(=O)Cl | C2H2BrClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (3R)-N-(1-benzylpyrrolidin-3-yl)-2-bromoacetamide hydrochloride | 6.8 g, 72% | Cl.C(C1=CC=CC=C1)N1C[C@@H](CC1)NC(CBr)=O | InChI=1S/C13H17BrN2O.ClH/c14-8-13(17)15-12-6-7-16(10-12)9-11-4-2-1-3-5-11;/h1-5,12H,6-10H2,(H,15,17);1H/t12-;/m1./s1
